US04060525
3-(2'-Hydroxycyclohexyl)-5,5-dimethylhydantoin
A mixture of 128.1 g of 5,5-dimethylhydantoin (1 mol), 1 g of lithium chloride and 200 ml of dimethylformamide is stirred at 100° C in a 500 ml glass apparatus having a stirrer, thermometer, dropping funnel and reflux condenser. 100 g of cyclohexene oxide (1.02 mols) are added dropwise to this solution over the course of 120 minutes, whilst stirring. Thereafter the mixture is stirred for a further 5 hours at 125°-130° C. After cooling to about 60° C, the reaction mixture is filtered and is concentrated to dryness on a rotary evaporator at 70° C under a waterpump vacuum. Thereafter the residue is dried to constant weight at 90° C/0.1 Hg. 217.8 g of a yellowish, crystalline material (96.4% of theory) are obtained, and this can be recrystallised, for example from acetone. The purified product melts at 159°-161° C. Elementary analysis shows the following values:

reactant | 5,5-dimethylhydantoin | 1 mol, 128.1 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | lithium chloride | 1 g | [Cl-].[Li+]
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | cyclohexene oxide | 1.02 mols, 100 g | C12C(CCCC1)O2 | C6H10O
solvent | acetone | CC(=O)C | C3H6O
product | 3-(2'-Hydroxycyclohexyl)-5,5-dimethylhydantoin | OC1C(CCCC1)N1C(NC(C1=O)(C)C)=O | C11H18N2O3
